US04352806
Preparation of 4-Crotonoxy-6-Methyl-2-Trichloromethylpyrimidine
To a solution of 3.0 g (0.02 mole) 4-hydroxy-6-methyl-2-trichloromethylpyrimidine and 1.3 g (0.02 mole) triethylamine in 75 ml diethyl ether was added 1.4 g (0.02 mole) crotonyl chloride. The reaction mixture was refluxed for 15 hours and filtered, and the filtrate was concentrated in-vacuo to give a viscous oil as residue. Trituration with petroleum ether caused the oil to solidify. Recrystallization from isopropyl alcohol gave 1.8 g (45% yield) of pure product; m.p. 55° C.

reactant | 4-hydroxy-6-methyl-2-trichloromethylpyrimidine | 0.02 mole, 3.0 g | OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C6H5Cl3N2O
reactant | triethylamine | 0.02 mole, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | crotonyl chloride | 0.02 mole, 1.4 g | C(\C=C\C)(=O)Cl | C4H5ClO
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 4-Crotonoxy-6-Methyl-2-Trichloromethylpyrimidine | 1.8 g, 45% yield | C(\C=C\C)(=O)OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C10H9Cl3N2O2
